US04668697
6-[3-Methoxy-2-hydroxypropoxy]-2-sulfamoylbenzo[b]thiophene
One drop of concentrated sulfuric acid was added to a solution of 6-[2,3-epoxypropoxy]-2-sulfamoylbenzo[b]thiophene (2.0 g, 7.0 mmol) in methanol (25 ml). After 18 hours, the methanol was removed under vacuum. The residue was dissolved in ethyl acetate (200 ml), washed with water (2×25 ml), brine (2×25 ml) and dried (Na2SO4). The ethyl acetate was removed under vacuum. The white solid remaining was recrystallized from boiling ethyl acetate, 1.5 g, m.p. 128°-129° C.

reactant | 6-[2,3-epoxypropoxy]-2-sulfamoylbenzo[b]thiophene | 7.0 mmol, 2.0 g | O1C(COC=2C=CC3=C(SC(=C3)S(N)(=O)=O)C2)C1 | C11H11NO4S2
reactant | methanol | 25 ml | CO | CH4O
catalyst | sulfuric acid | One drop | S(O)(O)(=O)=O | H2O4S
product | 6-[3-Methoxy-2-hydroxypropoxy]-2-sulfamoylbenzo[b]thiophene | COCC(COC=1C=CC2=C(SC(=C2)S(N)(=O)=O)C1)O | C12H15NO5S2
